US04853149
1.63 g of dicyclohexylcarbodiimide in 2.5 ml of methylene chloride are added to a mixture of 1.78 g of 5-n-pentyl-5,6-dihydro-4-H-cyclopenta[b]thiophene-2-carboxylic acid (which can be prepared from 3-bromomethylthiophene by reaction with n-heptanecarboxylic acid and lithium diisopropylamide, subsequent cyclization via the corresponding acid chloride, reduction of the carbonyl group (for example Wolff-Kishner reduction), Friedel-Crafts acetylation and a haloform reaction), 0.098 g of 4-dimethylaminopyridine, 1.42 g of 4-n-heptylphenol and 12 ml of methylene chloride at 10°, with stirring. After the mixture has been stirred at room temperature for 15 hours, it is filtered with suction over silica gel and the solvent is evaporated off. Recrystallization from ethanol gives 4-n-heptylphenyl 5-n-pentyl-5,6-dihydro-4-H-cyclopenta[b]thiophene-2-carboxylate of m.p. 64° and c.p. 82°.

reactant | dicyclohexylcarbodiimide | 1.63 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 5-n-pentyl-5,6-dihydro-4-H-cyclopenta[b]thiophene-2-carboxylic acid | 1.78 g | C(CCCC)C1CC2=C(SC(=C2)C(=O)O)C1 | C13H18O2S
reactant | 3-bromomethylthiophene | BrCC1=CSC=C1 | C5H5BrS
reactant | n-heptanecarboxylic acid | C(CCCCCC)C(=O)O | C8H16O2
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 4-n-heptylphenol | 1.42 g | C(CCCCCC)C1=CC=C(C=C1)O | C13H20O
solvent | methylene chloride | 2.5 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.098 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
product | 4-n-heptylphenyl 5-n-pentyl-5,6-dihydro-4-H-cyclopenta[b]thiophene-2-carboxylate | C(CCCC)C1CC2=C(SC(=C2)C(=O)OC2=CC=C(C=C2)CCCCCCC)C1 | C26H36O2S
